US08252831B2
Methyl 5-(aminomethyl)-2-(difluoromethyl)benzoate hydrochloride
Purge a mixture of methyl 5-cyano-2-(difluoromethyl)benzoate (9.37 g, 44.4 mmol, 1.0 equiv), palladium (10% on carbon, 3.00 g, 2.82 mmol, 0.064 equiv), and methanol (50 mL) with nitrogen, then add hydrochloric acid (37 wt % aqueous, 8.0 mL, 105.6 mmol, 2.38 equiv), and stir the resulting suspension under 275 kPaG of hydrogen at room temperature overnight. Remove the solids by filtration, concentrate the filtrate under reduced pressure, and dry the resulting material in a 40° C. vacuum oven overnight to give the title compound as a light brown solid (7.01 g, 83%). MS (m/z) 216 (M+1).

reactant | methyl 5-cyano-2-(difluoromethyl)benzoate | 44.4 mmol, 9.37 g, 1.0 equiv | C(#N)C=1C=CC(=C(C(=O)OC)C1)C(F)F | C10H7F2NO2
reactant | hydrochloric acid | 105.6 mmol, 8.0 mL, 2.38 equiv | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 2.82 mmol, 3.00 g, 0.064 equiv | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | Methyl 5-(aminomethyl)-2-(difluoromethyl)benzoate hydrochloride | 7.01 g, 83% | Cl.NCC=1C=CC(=C(C(=O)OC)C1)C(F)F | InChI=1S/C10H11F2NO2.ClH/c1-15-10(14)8-4-6(5-13)2-3-7(8)9(11)12;/h2-4,9H,5,13H2,1H3;1H
